US20010047099A1
To a solution of methyl 3-bromo-4,6-dichloropyridine-2-carboxylate (0.9 g, 3.2 mmol) in aqueous DMF was added NaN3 (0.25 g, 3.8 mmol). The resulting mixture was heated at 60° C. for 1 hr, added to H2O and extracted (3×) with Et2O. Organic layer was concentrated to yield a white solid, which was dissolved in 10 mL of MeOH. Excess NaBH4 was added and the reaction mixture stirred at room temperature for 0.5 hr. This material was added to H2O, extracted (3×) with Et2O, dried over MgSO4 and concentrated. The resulting solid was stirred in 1N NaOH for 1 hr, made acidic with conc. HCl and concentrated to dryness. This material was extracted with MeOH, concentrated to give 220 mg of 4-amino-3-bromo-6-chloropyridine-2-carboxylic acid; mp 175° C. dec.

reactant | methyl 3-bromo-4,6-dichloropyridine-2-carboxylate | 3.2 mmol, 0.9 g | BrC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H4BrCl2NO2
reactant | NaN3 | 3.8 mmol, 0.25 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
reactant | NaBH4 | [BH4-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
product | 4-amino-3-bromo-6-chloropyridine-2-carboxylic acid | 220 mg | NC1=C(C(=NC(=C1)Cl)C(=O)O)Br | C6H4BrClN2O2
